US04820705
4-(2-o-Methoxybenzenesulphonamido-indan-5-yl)-4-oxobutyric acid
Prepared analogously to Example 2 from methyl 4-(2-o-methoxybenzenesulphonamido-indan-5-yl)-4-oxobuty rate by hydrolysis with sodium hydroxide.

reactant | methyl 4-(2-o-methoxybenzenesulphonamido-indan-5-yl)-4-oxobuty rate | COC1=C(C=CC=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(CCC(=O)OC)=O | C21H23NO6S
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-(2-o-Methoxybenzenesulphonamido-indan-5-yl)-4-oxobutyric acid | COC1=C(C=CC=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(CCC(=O)O)=O | C20H21NO6S
